### PR TITLE
chore: port one ennnorm theorem to enorm

### PR DESCRIPTION
**Pull request by grunweg**
The new proof can be simplified to avoid some back-and-forth, but compiles.

I found this in an old branch of mine: should we simply land this, or clean it up further first?

### CODE REVIEW

File: Carleson/ToMathlib/MeasureTheory/Integral/SetIntegral.lean [hunk 1]
```diff
@@ -24,3 +24,29 @@ lemma ennnorm_integral_starRingEnd_mul_eq_lintegral_ennnorm
   conv_rhs => rw [← this]
   simp only [Real.norm_eq_abs, Real.toNNReal_abs]
   rfl
+
+-- move to Mathlib.Analysis.Normed.Module.Basic, next to nnnorm_algebraMap'
+lemma enorm_algebraMap' {𝕜 : Type*} (𝕜' : Type*) [NormedField 𝕜] [SeminormedRing 𝕜'] [NormedAlgebra 𝕜 𝕜']
+    [NormOneClass 𝕜'] (x : 𝕜) : ‖(algebraMap 𝕜 𝕜') x‖ₑ = ‖x‖ₑ := by
+  simp_rw [enorm_eq_nnnorm]; rw [nnnorm_algebraMap']
+
+lemma enorm_integral_starRingEnd_mul_eq_lintegral_enorm
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/MeasureTheory/Integral/SetIntegral.lean:33]: This proof is not Mathlib-ready: hypothesis `A` has to be a separate lemma, and then we should add the lemma `‖∫ x, ‖f x‖ ∂μ‖ₑ = ∫⁻ x, ‖f x‖ₑ ∂μ`.

Comment (fpvandoorn) [reply Carleson/ToMathlib/MeasureTheory/Integral/SetIntegral.lean:33]: I'm happy to merge things here that are not Mathlib-ready, but if nothing depends on this, let's clean it up before merging.

Comment (grunweg) [reply Carleson/ToMathlib/MeasureTheory/Integral/SetIntegral.lean:33]: For the record, everything you say equally holds about the proof I modified - but I agree with both of your points.

Comment (grunweg) [reply Carleson/ToMathlib/MeasureTheory/Integral/SetIntegral.lean:36]: #301 extracts the said lemma.
